US08304557B2
ethyl 4-ethyl-1-methyl-1H-pyrazole-3-carboxylate
In the same manner as in Reference Example 51 and using 1-ethoxybut-1-en (25.0 g, 250 mmol), pyridine (18.2 mL), trichloroacetyl chloride (25.3 mL, 226 mmol), diethyl ether (100 mL), 0.2N hydrochloric acid (200 mL), methylhydrazine (12.6 g, 273 mmol) and ethanol (220 mL) as starting materials, the title compound (470 mg, 1.1%) was obtained as a colorless oil.

reactant | 1-ethoxybut-1-en | 250 mmol, 25.0 g | C(C)OC=CCC | C6H12O
reactant | trichloroacetyl chloride | 226 mmol, 25.3 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | hydrochloric acid | 0.2N, 200 mL | Cl | ClH
reactant | methylhydrazine | 273 mmol, 12.6 g | CNN | CH6N2
reactant | ethanol | 220 mL | C(C)O | C2H6O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | pyridine | 18.2 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 4-ethyl-1-methyl-1H-pyrazole-3-carboxylate | 470 mg, 1.1% | C(C)C=1C(=NN(C1)C)C(=O)OCC | C9H14N2O2
